US04287085
22.5 g (0.15 mol) of commercially available p-n-butylphenol was dissolved in 100 ml glacial acetic acid and was slowly heated to 40° C. 24.5 g (0.153 mol) of bromine was added and the solution was stirred for four hours at 60° C. The glacial acetic acid in the reaction solution was removed by distillation and 31.7 g of 3-bromo-4-n-butylphenol was obtained from the residue by vacuum distillation (85° C./1 mmHg). The yield of 3-bromo-4-n-butylphenol was calculated to be 92.1%.

reactant | p-n-butylphenol | C(CCC)C1=CC=C(C=C1)O | C10H14O
reactant | bromine | 0.153 mol, 24.5 g | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-4-n-butylphenol | 31.7 g | BrC=1C=C(C=CC1CCCC)O | C10H13BrO
